US05770758
Example 6: Methyl 3-thioureido-benzoate
11.3 g of methyl 3-aminobenzoate are initially introduced into the reaction vessel as a solution in 75 ml of chlorobenzene, 2.07 ml of concentrated sulfuric acid (96%) are added dropwise at -5° to 0° C. in the course of 15 minutes, stirring is continued for 5 minutes, 6.8 g of sodium thiocyanate are then introduced in portions at a maximum of 0° C. and the mixture is stirred for a further 15 minutes. 0.2 ml of 15-crown-5 is then added, the mixture is stirred at a bath temperature of 100° C. for 10 hours and cooled and the precipitate formed is filtered off and washed 3 times with water. 13.5 g (85.9%) of the title compound of melting point 171°-172° C. result.

reactant | methyl 3-aminobenzoate | 11.3 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | sulfuric acid | 2.07 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium thiocyanate | 6.8 g | [S-]C#N.[Na+]
reactant | 15-crown-5 | 0.2 ml | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | chlorobenzene | 75 ml | ClC1=CC=CC=C1 | C6H5Cl
product | Methyl 3-thioureido-benzoate | 13.5 g, 85.9% | N(C(=S)N)C=1C=C(C(=O)OC)C=CC1 | C9H10N2O2S
